US07659263B2
To a suspension of methyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (4.73 g, 13.8 mmol) and 5-benzyloxy-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine (5.84 g, 17.9 mmol) produced by the method described in WO2005/080399 in 1,2-dimethoxyethane (50 ml) and water (50 ml) were added sodium hydrogen carbonate (1.72 g, 20.7 mol) and tetrakis(triphenylphosphine)palladium (799 mg, 0.691 mol), and the mixture was stirred overnight with heating at 110° C. The reaction mixture was allowed to cool to room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure and the residue was purified y silica gel column chromatography (hexane:ethyl acetate=3:1) to give methyl 5-(2-amino-4-benzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate (5.93 g, yield 93%).

reactant | methyl 5-bromo-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 13.8 mmol, 4.73 g | BrC1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C14H16BrNO2S
reactant | 5-benzyloxy-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine | 17.9 mmol, 5.84 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)N)B1OC(C(O1)(C)C)(C)C | C19H24BNO3
reactant | water | 50 ml | O | H2O
reactant | sodium hydrogen carbonate | 20.7 mol, 1.72 g | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.691 mol, 799 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-(2-amino-4-benzyloxyphenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 5.93 g, yield 93% | NC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C27H28N2O3S
